US07335658B2
6-[4-(2-TRIFLUOROMETHOXYBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-trifluoromethoxybenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (83% yield). 1H NMR (400 MHz, CDCl3) δ 8.06, 7.85, 7.53-7.32, 7.01, 4.12-3.36, 1.75-1.66, 1.54-1.48, 0.98. MS (ES+) m/z 466.2 (M+1).

reactant | 2-trifluoromethoxybenzoyl chloride | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(2-TRIFLUOROMETHOXYBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)OC(F)(F)F)=O)C | C22H26F3N5O3
